US06229011B1
Synthesis of N-[(2,6-dimethylphenyl)carbonyl]-4-[[(4-quinolinyl)carbonyl]amino]-L-phenylalanine
4-[[(4-Quinolinyl)carbonyl]amino]-L-phenylalanine on Wang resin (300 mg, 0.20 mmol) was washed with dichloromethane (2×10 mL), methanol (2×10 mL) and dimethylformamide (2×10 mL). To the resin was added a solution prepared from 2,6-dimethylbenzoic acid (150 mg, 1.0 mmol), BOP (450 mg, 1.02 mmol) and diisopropylethylamine (0.23 mL) in 4 mL of N-methylpyrrolidone at room temperature. The resulting mixture was agitated for 2 hr. The reaction mixture was then filtered and washed with dichloromethane (2×10 mL), methanol (2×10 mL) and dichloromethane (2×10 mL). Cleavage was effected by treatment with 90% trifluoroacetic acid (TFA) in dichloromethane for 5 minutes. The mixture was filtered and the TFA was removed under high vaccum. Addition of ether (25 mL) effected precipitation of N-[(2,6-dimethylphenyl)carbonyl]-4-[[(4-quinolinyl)carbonyl)amino]-L-phenylalanine (0.16 g).

reactant | 4-[[(4-Quinolinyl)carbonyl]amino]-L-phenylalanine | N1=CC=C(C2=CC=CC=C12)C(=O)NC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C19H17N3O3
reactant | 2,6-dimethylbenzoic acid | 1.0 mmol, 150 mg | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
reactant | BOP | 1.02 mmol, 450 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.23 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | N-[(2,6-dimethylphenyl)carbonyl]-4-[[(4-quinolinyl)carbonyl]amino]-L-phenylalanine | CC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=CC=NC2=CC=CC=C12)C(=O)O | C28H25N3O4
